US07732456B2
Step (5) of Example 1 was repeated except that 4-benzyloxy-1-(4-hydroxyphenyl)-1H-pyridin-2-one and 2-dimethylamino)ethanol were replaced with the compound as obtained in above Step (1) and 5-hydroxymethyl-2-methylpyridine, to provide the title compound.

reactant | 4-benzyloxy-1-(4-hydroxyphenyl)-1H-pyridin-2-one | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC=C(C=C1)O)=O | C18H15NO3
reactant | ethanol | C(C)O | C2H6O
product | 5-hydroxymethyl-2-methylpyridine | OCC=1C=CC(=NC1)C | C7H9NO
